US04639468
(a) Synthesis of dodecylaminoacetonitrile
In a flask of 500 ml provided with a magnetic stirrer, 4.56 gr of hydroxyacetonitrile (0.08 mol) were mixed at room temperature with 16.3 gr of dodecylamine (0.088 mol) in 250 ml of methanol. The mixture was allowed to stand for 16 hours at room temperature and methanol was evaporated. The obtained liquid was distilled under 10-2 mm Hg. The fraction distilling between 106° and 116° crystallizes after cooling.

reactant | hydroxyacetonitrile | 0.08 mol, 4.56 gr | OCC#N | C2H3NO
reactant | dodecylamine | 0.088 mol, 16.3 gr | C(CCCCCCCCCCC)N | C12H27N
solvent | methanol | 250 ml | CO | CH4O
product | dodecylaminoacetonitrile | C(CCCCCCCCCCC)NCC#N | C14H28N2
